US07034039B2
Tert-butyl[6-cyano-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.17 g, 0.4 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml). The solution was stirred at room temperature for 1 h. The reaction was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate diisopropyl ether to give 3-(aminomethyl)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-6-isoquinolinecarbonitrile hydrochloride (0.14 g, 93.3%) as crystals.

reactant | Tert-butyl[6-cyano-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.4 mmol, 0.17 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C=1SC=CC1)C#N)=O)CC(C)C)=O | C24H27N3O3S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-6-isoquinolinecarbonitrile hydrochloride | 0.14 g, 93.3% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C=1SC=CC1)C#N)=O)CC(C)C | InChI=1S/C19H19N3OS.ClH/c1-12(2)11-22-16(10-21)18(17-4-3-7-24-17)15-8-13(9-20)5-6-14(15)19(22)23;/h3-8,12H,10-11,21H2,1-2H3;1H
